US05254702
Aqueous 4-hydroxybutanal (502 g of 10.2 wt. % solution, 0.58 mol, 1.0 eq.), n-butanol (34.6 g, 0.47 mol, 0.80 eq.), hexanes (500 mL), and "Amberlyst-15" resin (product of Rohm and Haas Company, 2.3 g) are charged to a 2-L glass reaction vessel equipped with a magnetic stir bar. The two-phase mixture is stirred at ambient temperature (22° C.) for 17 h. The two liquid phases are separated from the ion-exchange resin. The hexane layer, which is separated from the aqueous phase and analyzed by gas chromatography (GC), contains 14.8 wt. % of 2-n-butoxytetrahydrofuran (59.4 g, 88.5% yield). Product identity is confirmed by infrared, 1H NMR, and 13C NMR spectroscopies. The aqueous phase contains 4.2% unreacted 4-hydroxybutanal.

reactant | 4-hydroxybutanal | 0.58 mol, 502 g, 1.0 eq. | OCCCC=O | C4H8O2
reactant | n-butanol | 0.47 mol, 34.6 g, 0.80 eq. | C(CCC)O | C4H10O
product | 2-n-butoxytetrahydrofuran | 59.4 g, 88.5% yield | C(CCC)OC1OCCC1 | C8H16O2
